US07745641B2
In a similar manner to Step 2 of Example 161, 4-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (60.0 mg, 0.101 mmol) was dissolved in diethylamine (3.0 mL), and the solution was treated with bis(triphenylphosphine)dichloropalladium (8.6 mg, 0.012 mmol), copper iodide (6.9 mg, 0.036 mmol), propargyl alcohol (0.029 mL, 0.51 mmol), followed by purification by preparative thin-layer chromatography (chloroform/methanol=5/1) to obtain 4-(3-hydroxy-1-propinyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (18.8 mg, yield 37%).

reactant | 4-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.101 mmol, 60.0 mg | FC(S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O)(F)F | C28H30F3N3O6S
reactant | propargyl alcohol | 0.51 mmol, 0.029 mL | C(C#C)O | C3H4O
solvent | diethylamine | 3.0 mL | C(C)NCC | C4H11N
catalyst | bis(triphenylphosphine)dichloropalladium | 0.012 mmol, 8.6 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.036 mmol, 6.9 mg | [Cu](I)I
product | 4-(3-hydroxy-1-propinyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 18.8 mg, yield 37% | OCC#CC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C30H33N3O4
